US07691882B2
6-Phenylsulfanyl-pyridine-3-carbaldehyde
To a tetrahydrofuran (40 mL) solution of 5-bromo-2-phenylsulfanyl-pyridine (2.24 g, 8.42 mmol) described in Manufacturing Example 97-1-1 was added n-butyl lithium (6.35 mL, 1.6 M hexane solution, 10.1 mmol) under nitrogen atmosphere at −78° C., which was stirred for 45 minutes at −78°. Next, N,N-dimethylformamide (848 μL, 10.9 mmol) was added to this reaction mixture, and stirred for 35 minutes as the temperature was gradually raised to room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (583 mg, 32%).

reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | 5-bromo-2-phenylsulfanyl-pyridine | 8.42 mmol, 2.24 g | BrC=1C=CC(=NC1)SC1=CC=CC=C1 | C11H8BrNS
reactant | n-butyl lithium | 10.1 mmol, 1.6 M, 6.35 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 10.9 mmol, 848 μL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 6-Phenylsulfanyl-pyridine-3-carbaldehyde | 583 mg, 32% | C1(=CC=CC=C1)SC1=CC=C(C=N1)C=O | C12H9NOS
